US07220769B2
Preparation 5. 5,6-Dichloro-2-(4-cyano-2-methoxyphenyl)benzimidazole
A suspension of N-(2-amino-4,5-dichlorophenyl)-2-methoxy-4-cyanobenzamide (2.9 g, 8.6 mmol) and P2O5 (2.9 g, 10 mmol) in xylene (48 ml) was refluxed for 24 h. Additional P2O5 (2.9 g, 10 mmol) was added and the mixture was refluxed for 42 h. Solvent was removed under reduced pressure. The residue was treated with 2N NaOH (50 ml) and extracted with ethyl acetate (100 ml). The organic layer was washed with water and brine, dried over Na2SO4, filtered and evaporated under reduced pressure to give 2 g of the title compound (yield 73%), mp>250° C.

reactant | N-(2-amino-4,5-dichlorophenyl)-2-methoxy-4-cyanobenzamide | 8.6 mmol, 2.9 g | NC1=C(C=C(C(=C1)Cl)Cl)NC(C1=C(C=C(C=C1)C#N)OC)=O | C15H11Cl2N3O2
reactant | P2O5 | 10 mmol, 2.9 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | P2O5 | 10 mmol, 2.9 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
solvent | xylene | 48 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 5,6-Dichloro-2-(4-cyano-2-methoxyphenyl)benzimidazole | 2 g, yield 73% | ClC1=CC2=C(N=C(N2)C2=C(C=C(C=C2)C#N)OC)C=C1Cl | C15H9Cl2N3O
